US09023847B2
182. 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-chloro-phenyl)-ethyl]-amide
The title compound was prepared in an analogous manner as 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide using 3-chlorophenethylamine instead of benzylamine and obtained in 32% yield. 1H NMR (DMSO-d6) 11.98 (br s, 1H), 11.37 (s, 1H), 8.48 (d, J=5.5 Hz, 1H), 8.38 (s, 1H), 8.33 (t, J=5.5 Hz, 1H), 7.76 (d, J=5.5 Hz, 1H), 7.38-7.23 (m, 5H), 6.45 (dd, J=3.3, 1.8 Hz, 1H), 3.55-3.50 (m, 2H), 2.89 (t, J=7.5 Hz, 2H); MS (m/z) 398 [M+H]+.

reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C18H15N5OS
reactant | 3-chlorophenethylamine | ClC=1C=C(CCN)C=CC1 | C8H10ClN
product | 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-chloro-phenyl)-ethyl]-amide | 32% yield | ClC=1C=C(C=CC1)CCNC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C19H16ClN5OS
